US07501430B2
13b: Preparation of 1-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]ethanone
To a mixture of 6-(3-cyanophenyl)-imidazo[2,1-b]thiazole (5.50 g, 24.4 mmol) and acetic anhydride (50 mL) was added 0.6 mL of concentrated sulfuric acid. The reaction mixture was heated at 135° C. for 5 hours. After cooling to room temperature, the reaction mixture was diluted with dichloromethane (100 mL), washed with water (50 mL×2), saturated aqueous sodium bicarbonate solution (50 mL×2), water (50 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Product was purified by flash chromatography on silica gel eluting with 40% ethyl acetate in hexane to yield 4.8 g (74%) of the title compound as a light yellow solid. LCMS: 268 [M+H].

reactant | 6-(3-cyanophenyl)-imidazo[2,1-b]thiazole | 24.4 mmol, 5.50 g | C(#N)C=1C=C(C=CC1)C=1N=C2SC=CN2C1 | C12H7N3S
reactant | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.6 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]ethanone | 4.8 g, 74% | C(#N)C=1C=C(C=CC1)C=1N=C2SC=CN2C1C(C)=O | C14H9N3OS
